US05977178
N-Tert-butoxycarbonyl-N-methyl-D-phenylalanine (1.22 g, 4.4 mmol), 1-hydroxybenzotriazole hydrate (0.59 g, 4.4 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimid hydrochloride (0.88 g, 4.6 mmol) were dissolved in N,N-dimethylformamide (25 mL) and stirred for 30 min. Methylamine (0.51 g of a 40% solution in methanol, 6.6 mmol) was added and the mixture was stirred overnight. Methylene chloride (80 mL) and water (100 mL) were added and the phases were separated. The organic phase was washed with sodium hydroxide (20 mL, 1 N), sodium hydrogensulfate (50 mL, 10%) and water (50 mL). The organic phase was dried (magnesium sulfate) and the solvent removed in vacuo to afford 1.39 g of N-methyl-N-((R)1-(methylcarbamoyl)-2-phenylethyl)carbamic acid tert-butyl ester.

reactant | N-Tert-butoxycarbonyl-N-methyl-D-phenylalanine | 4.4 mmol, 1.22 g | C(C)(C)(C)OC(=O)N([C@H](CC1=CC=CC=C1)C(=O)O)C | C15H21NO4
reactant | 1-hydroxybenzotriazole hydrate | 4.4 mmol, 0.59 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimid hydrochloride | 4.6 mmol, 0.88 g | Cl.C(C)N=C=NCCCN(C)C
reactant | Methylamine | CN | CH5N
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | water | 100 mL | O | H2O
solvent | Methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | N-methyl-N-((R)1-(methylcarbamoyl)-2-phenylethyl)carbamic acid tert-butyl ester | 1.39 g | C(C)(C)(C)OC(N([C@H](CC1=CC=CC=C1)C(NC)=O)C)=O | C16H24N2O3
